US09120749B2
{6-Bromo-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (0.880 g, 2.83 mmol) was reacted with (1-methylpiperidin-4-yl)methanamine (435 mg, 3.39 mmol) to afford the desired product (970 mg, 85%) as a light brown solid: 1H NMR (300 MHz, CDCl3) δ 10.87 (s, 1H), 9.22 (s, 1H), 8.36 (d, J=1.9 Hz, 1H), 7.80 (d, J=8.9 Hz, 1H), 7.73 (dd, J=8.9, 2.0 Hz, 1H), 3.69 (dd, J=6.4, 5.2 Hz, 2H), 2.93 (d, J=11.4 Hz, 2H), 2.79-2.60 (m, 1H), 2.31 (s, J=9.0 Hz, 3H), 2.01 (t, J=11.7 Hz, 2H), 1.89 (d, J=12.7 Hz, 2H), 1.76-1.60 (m, 1H), 1.53-1.30 (m, 2H), 1.30-1.17 (m, 2H), 1.10-0.95 (m, 2H).

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 2.83 mmol, 0.880 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | (1-methylpiperidin-4-yl)methanamine | 3.39 mmol, 435 mg | CN1CCC(CC1)CN | C7H16N2
product | {6-Bromo-4-[(1-methylpiperidin-4-yl)methylamino]quinolin-3-yl}(cyclopropyl)methanone | 970 mg, 85% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCC1CCN(CC1)C | C20H24BrN3O
